US07592363B2
3-[3-(5-FLUORO-1-METHYL-1H-INDOL-2-YL)PHENYL]-2-(2,4,6-TRIFLUOROBENZYL)-7-(TRIFLUOROMETHYL)-2H-INDAZOLE
A solution of 3-[3-(5-fluoro-1H-indol-2-yl)phenyl]-2-(2,4,6-trifluorobenzyl)-7-(trifluoromethyl)-2H-indazole (0.03 g, 0.056 mmol) in 2 mL THF was treated with sodium hydride (0.004 g, 0.1 mmol, 60% in oil). The reaction mixture was stirred for 20 minutes and treated with iodomethane (0.007 mL, 0.1 mmol). Stirring was continued for 1 hour. The reaction mixture was concentrated and purified by normal phase HPLC (silica, hexane-EtOAC, 19:1) to give 0.01 g of product as a white solid.

reactant | 3-[3-(5-fluoro-1H-indol-2-yl)phenyl]-2-(2,4,6-trifluorobenzyl)-7-(trifluoromethyl)-2H-indazole | 0.056 mmol, 0.03 g | FC=1C=C2C=C(NC2=CC1)C=1C=C(C=CC1)C=1N(N=C2C(=CC=CC12)C(F)(F)F)CC1=C(C=C(C=C1F)F)F | C29H16F7N3
reactant | sodium hydride | 0.1 mmol, 0.004 g | [H-].[Na+]
reactant | iodomethane | 0.1 mmol, 0.007 mL | IC | CH3I
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-[3-(5-FLUORO-1-METHYL-1H-INDOL-2-YL)PHENYL]-2-(2,4,6-TRIFLUOROBENZYL)-7-(TRIFLUOROMETHYL)-2H-INDAZOLE | 0.01 g | FC=1C=C2C=C(N(C2=CC1)C)C=1C=C(C=CC1)C=1N(N=C2C(=CC=CC12)C(F)(F)F)CC1=C(C=C(C=C1F)F)F | C30H18F7N3
